US06555542B1
Part A: N,N-Dimethylformamide dimethyl acetal (5 mL) was added to benzyl (2S)-2-carbamoyl-pyrrolidine-1-carboxylate (1.05 g, 4.23 mmol) at ambient temperature. The resulting slurry was heated to 120° C. for 2 h then allowed to cool and poured into hexane (50 mL). The solvents were removed under reduced pressure yielding benzyl (2S)-2-(dimethylaminomethylenecarbamoyl)pyrrolidine-1-carboxylate as a colorless oil (1.35 g, crude quantative yield). HPLC (method 1) tR=1.70 min, Purity 100%; LCMS (method 4) tR=0.94 min, m/z 304 (M+1).

reactant | N,N-Dimethylformamide dimethyl acetal | 5 mL | COC(N(C)C)OC | C5H13NO2
reactant | benzyl (2S)-2-carbamoyl-pyrrolidine-1-carboxylate | 4.23 mmol, 1.05 g | C(N)(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C13H16N2O3
solvent | hexane | 50 mL | CCCCCC | C6H14
product | benzyl (2S)-2-(dimethylaminomethylenecarbamoyl)pyrrolidine-1-carboxylate | CN(C)C=NC(=O)[C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C16H21N3O3
